US05624950
To a solution of 6.5 g of 5-acetoxymethyl-2-cyclohexen-1-one [J. Am. Chem. Soc., 110, 2919 (1988)]and 14 g of N-butoxymethyl-N-trimethylsilylmethylbenzylamine in 60 cm3 of dry dichloromethane are added 2 drops of trifluoroacetic acid. The reaction mixture reaches reflux and is maintained at the same temperature for 30 minutes and is then left at 20° C. for one hour. After addition of 1.0 g of potassium carbonate, the suspension obtained is filtered and the filtrate is concentrated to dryness under reduced pressure (2.7 kPa). The oily residue obtained is chromatographed on a column of silica gel (particle size 0.06-0.2 mm, height 42 cm) in a mixture of cyclohexane and ethyl acetate (40/60 by volume) and then in ethyl acetate. 8.2 g of (3aRS,6SR,7aSR)-6-acetoxymethyl-2-benzyl-4-perhydroisoindolone are obtained in the form of a yellowish oil.

reactant | 5-acetoxymethyl-2-cyclohexen-1-one | 6.5 g | C(C)(=O)OCC1CC=CC(C1)=O | C9H12O3
reactant | N-butoxymethyl-N-trimethylsilylmethylbenzylamine | C(CCC)OCN(C[Si](C)(C)C)CC1=CC=CC=C1 | C16H29NOSi
reactant | potassium carbonate | 1.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 60 cm3 | ClCCl | CH2Cl2
catalyst | trifluoroacetic acid | 2 drops | FC(C(=O)O)(F)F | C2HF3O2
product | (3aRS,6SR,7aSR)-6-acetoxymethyl-2-benzyl-4-perhydroisoindolone | 8.2 g | C(C)(=O)OCC1CC(C2CN(CC2C1)CC1=CC=CC=C1)=O | C18H23NO3
